US05212187
N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 1.09 g (3.15 mmol) of N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine and 1.23 g (3.1 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; IR (KBr): 2163 cm-1 (C≡N).

reactant | N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methyl-1,5-pentanediamine | 3.15 mmol, 1.09 g | ClC1=CC=C(C=C1)C(CCN(CCCCCN)C)C1=NC=CC=C1 | C20H28ClN3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 3.1 mmol, 1.23 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-[5-[N-[3-(4-chlorophenyl)-3-(2-pyridyl)propyl]-N-methylamino]pentyl]-N'-cyano-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | ClC1=CC=C(C=C1)C(CCN(C)CCCCCNC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NC#N)C1=NC=CC=C1 | C37H50ClN7O
